US05482948
c) 4E-1-(5-(3-Aminophenyl)-5-(3-pyridyl)pent-4-enyl)tetrazole
5.7 g of 4E-1-(5-(3-acetylaminophenyl)-5-(3-pyridyl)-pent-4-enyl)tetrazole are heated in 60 ml of 4N hydrochloric acid for 5 hours at 60° C. The reaction solution is neutralised by the addition of sodium bicarbonate and then adjusted to a pH value of 4-5 by the addition of citric acid. The aqueous phase is extracted with dichloromethane/methanol=4:1. The organic phase is washed with saturated sodium chloride solution, dried and concentrated by evaporation.

reactant | 4E-1-(5-(3-acetylaminophenyl)-5-(3-pyridyl)-pent-4-enyl)tetrazole | 5.7 g | C(C)(=O)NC=1C=C(C=CC1)\C(=C/CCCN1N=NN=C1)\C=1C=NC=CC1 | C19H20N6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | hydrochloric acid | 4N, 60 ml | Cl | ClH
product | 4E-1-(5-(3-Aminophenyl)-5-(3-pyridyl)pent-4-enyl)tetrazole | NC=1C=C(C=CC1)\C(=C/CCCN1N=NN=C1)\C=1C=NC=CC1 | C17H18N6
